US07282501B2
Step B: 2-(4-Benzyloxy-2-carboxymethyl-phenoxy)-2-methyl-propionic acid ethyl ester
A solution of 2-(2-allyl-4-benzyloxy-phenoxy)-2-methyl-propionic acid ethyl ester (8.07 g, 22.8 mmol) in acetone (85 mL) and water (8.5 mL) was treated with 4-methyl-morpholine 4-oxide (3.68 g, 27.2 mmol) then osmium (IV) oxide (2 chips). The flask was covered with foil and stirred 5 h. The solution was diluted with EtOAc (600 mL) and washed with 1N Na2S2O3 (2×75 mL) and brine (75 mL). The organic layer was concentrated to a tan oil (8.74 g). The oil was dissolved in THF (54 mL) and water (36 mL), and sodium periodate (15.4 g, 72.0 mmol) was added. THF (54 mL) and water (36 mL) were added. The thick white slurry was stirred for 3 h and filtered. The filtrate was extracted with EtOAc (500 mL). The organic layer was washed successively with brine, 1N Na2S2O3, and brine (75 mL each) and was concentrated to an orange oil (7.65 g). The oil was diluted with tert-butanol (180 mL) and 2-methyl-2-butene (60 mL) and was cooled in an ice bath. The mixture was treated with sodium chlorite (19 g, 0.21 mol), and a solution of NaH2PO4 (19 g, 0.14 mol) in water (120 mL) was added over 5 min. After 15 min, the ice bath was removed. The mixture was stirred for 2 h and was partitioned between EtOAc (500 mL) and water (50 mL). The organic layer was washed with 1N Na2S2O3 (75 mL) and brine (75 mL), dried (NaSO4), and concentrated to the title compound as a pale yellow solid (6.52 g, 77%). This material was used in subsequent reactions without further purification.

reactant | 2-(2-allyl-4-benzyloxy-phenoxy)-2-methyl-propionic acid ethyl ester | 22.8 mmol, 8.07 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)CC=C)=O | C22H26O4
reactant | 4-methyl-morpholine 4-oxide | 27.2 mmol, 3.68 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium periodate | 72.0 mmol, 15.4 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium chlorite | 0.21 mol, 19 g | Cl(=O)[O-].[Na+]
solvent | acetone | 85 mL | CC(=O)C | C3H6O
solvent | water | 8.5 mL | O | H2O
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
solvent | water | 36 mL | O | H2O
solvent | water | 120 mL | O | H2O
catalyst | osmium (IV) oxide | [Os](=O)=O
solvent | water | 36 mL | O | H2O
solvent | THF | 54 mL | C1CCOC1 | C4H8O
product | 2-(4-Benzyloxy-2-carboxymethyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)CC(=O)O)=O | C21H24O6
